US06596734B1
N-[2-(4-benzenesulfonylamino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide.
To a solution of N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide (0.995 g, 0.00181 mol) and phenylsulfonyl chloride (0.484 g, 0.00274 mol) 40 mL of methylene chloride was added 5 mL of pyridine. The reaction mixture was stirred overnight at room temperature, washed with 1N HCl and 1N NaOH, dried over Na2SO4 and concentrated. A crystallization from ethyl acetate-hexanes gave an oil. It was solidified under standing. Yield 1.043 g (83%).

reactant | N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | 0.00181 mol, 0.995 g | NC1=C(C=C(C=C1)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O)OCC1=CC=CC=C1 | C24H24Br2N2O3
reactant | phenylsulfonyl chloride | 0.00274 mol, 40 mL, 0.484 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-(4-benzenesulfonylamino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=C(C=C1)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O)OCC1=CC=CC=C1 | C30H28Br2N2O5S
